US04243609
2-Fluoro-4-aminobenzonitrile (11.8 g) and 1-bromohexadecane (15.3 g) are dissolved in hexamethylphosphoramide (200 ml.) and heated under an atmosphere of nitrogen in an oil bath maintained at 120° C. for 22 hours. The reaction mixture is cooled to room temperature and water is added gradually. The mixture is then chilled in an ice-bath and filtered. The solid is washed thoroughly with water and dried. The solid is recrystallized from ether-hexane to yield 2-fluoro-4-(hexadecylamino)benzonitrile as a pale yellow solid.

reactant | 2-Fluoro-4-aminobenzonitrile | 11.8 g | FC1=C(C#N)C=CC(=C1)N | C7H5FN2
reactant | 1-bromohexadecane | 15.3 g | BrCCCCCCCCCCCCCCCC | C16H33Br
reactant | water | O | H2O
solvent | hexamethylphosphoramide | 200 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | 2-fluoro-4-(hexadecylamino)benzonitrile | FC1=C(C#N)C=CC(=C1)NCCCCCCCCCCCCCCCC | C23H37FN2
